### PR TITLE
Missing lemmas in seq

### PR DESCRIPTION
**Pull request by hivert**
Dear Math-Comp developpers,

During my development in combinatorics, I've been needing a bunch of lemmas about seq. I've selected those which seems to me of general interest. Here are they. 

Best,

Florent

### CODE REVIEW

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -1405,6 +1482,13 @@ Proof. by move=> /= s2; rewrite perm_catC cat_take_drop. Qed.
 Lemma perm_rotr n s : perm_eql (rotr n s) s.
 Proof. exact: perm_rot. Qed.
 
+Lemma perm_eq_rev s : perm_eq s (rev s).
+Proof.
```
Comment (ejgallego) [inline mathcomp/ssreflect/seq.v]: May I suggest:
Proof. by apply/perm_eqP=> i; rewrite count_rev. Qed.

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -644,6 +644,14 @@ Proof. by move <-; elim: s1 => //=; rewrite drop0. Qed.
 Lemma nconsK n x : cancel (ncons n x) (drop n).
 Proof. by elim: n => // -[]. Qed.
 
+Lemma drop_drop s n1 n2 : drop n1 (drop n2 s) = drop (n1 + n2) s.
+Proof.
```
Comment (ejgallego) [inline mathcomp/ssreflect/seq.v]: May I suggest:
by elim: n2 s => [s|n2 IHn1 [|x s]]; rewrite ?drop0 ?addn0 ?addnS /=.

**Comment by hivert** [comment]
Thanks for rereading my proofs. It's certainly a good way for me to improve my Coq/SSReflect skills. I Implemented your suggestions and pushed.

File: mathcomp/ssreflect/seq.v [hunk 3]
```diff
@@ -1227,6 +1257,26 @@ move=> lt_i_s lt_j_s Us; apply/eqP/eqP=> [eq_sij|-> //].
 by rewrite -(index_uniq lt_i_s Us) eq_sij index_uniq.
 Qed.
 
+Lemma notuniq_witnessP s :
```
Comment (ejgallego) [inline mathcomp/ssreflect/seq.v]: Umm, I'm not sure what would be the best theory for uniqP. For the proof, I'd try something more on the lines of:
Proof.
elim: s => [|x s IHs].
  by constructor; case=> i [j [/andP[]]]; rewrite ltn0.
rewrite /= negb_and negbK; case: (x \in s) / boolP => [/(nthP d) hs|hs].
  by constructor; case: hs => j hj hnj; exists 0, j.+1.
apply/(equivP IHs); split; case=> [i [j [hj hnj]]]; first by exists i.+1, j.+1.
case: i j hj hnj => [|i] [|j] //= hj hnj; last by exists i, j.
by case/(nthP d): hs; exists j.
Qed.

But surely that should be improved too.

File: mathcomp/ssreflect/seq.v [hunk 4]
```diff
@@ -1417,6 +1494,19 @@ Proof. by move/perm_eqP=> eq12 x; rewrite -!has_pred1 !has_count eq12. Qed.
 Lemma perm_eq_size s1 s2 : perm_eq s1 s2 -> size s1 = size s2.
 Proof. by move/perm_eqP=> eq12; rewrite -!count_predT eq12. Qed.
 
+Lemma filter_perm_eq u v P :
+  perm_eq u v -> perm_eq (filter P u) (filter P v).
+Proof.
+move=> /perm_eqP Hcount.
```
Comment (ejgallego) [inline mathcomp/ssreflect/seq.v]: I think this style is preferred (thought I'm not sure):
by move/perm_eqP=> uv_count; apply/perm_eqP=> Q; rewrite !count_filter.

File: mathcomp/ssreflect/seq.v [hunk 5]
```diff
@@ -1417,6 +1494,19 @@ Proof. by move/perm_eqP=> eq12 x; rewrite -!has_pred1 !has_count eq12. Qed.
...
+by apply/perm_eqP => Q; rewrite !count_filter; exact: Hcount.
+Qed.
+
+Lemma all_perm_eq u v P : perm_eq u v -> all P u -> all P v.
```
Comment (ejgallego) [inline mathcomp/ssreflect/seq.v]: I'd suggest this stronger lemma:

Lemma all_perm_eq (u v : seq T) P : perm_eq u v -> all P u = all P v.
Proof. by move/perm_eq_mem/eq_all_r. Qed.

**Comment by hivert** [comment]
Updated pull request according to your comment.

File: mathcomp/ssreflect/seq.v (hunk 3 above)
Comment (hivert) [inline mathcomp/ssreflect/seq.v]: Do you want me to remove this lemma from the patch, and keep it for another pull request ? Should I open a discussion about the statement on the mailing list ?

Comment (ejgallego) [inline mathcomp/ssreflect/seq.v]: Regarding the patch, I'd wait from feedback from the developers.

I was just surprised the lemma didn't easily follow from the current theory.

It seems to me that the uniq theory in math-comp is optimized towards
deriving facts from `uniq` assumptions and not the other way around.

So maybe it would be good to think a bit what should the "reverse" `uniq` theory be. `notuniq_witnessP` seems certainly spot on.

File: mathcomp/ssreflect/seq.v [hunk 6]
```diff
@@ -850,6 +855,31 @@ Proof. by rewrite !has_count count_rev. Qed.
 Lemma all_rev a s : all a (rev s) = all a s.
 Proof. by rewrite !all_count count_rev size_rev. Qed.
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: These are refinements of the rev_rotr lemma that appears further down, and whose proof should be adapted.
Also, both these have shorter equational proofs:
Lemma take_rev s n : take n (rev s) = rev (drop (size s - n) s).  
Proof.
have /orP[le_s_n | le_n_s] := leq_total (size s) n.
  by rewrite (eqnP le_s_n) drop0 take_oversize ?size_rev.
rewrite -[s in LHS](cat_take_drop (size s - n)).
by rewrite rev_cat take_size_cat // size_rev size_drop subKn.
Qed.

Lemma drop_rev s n : drop n (rev s) = rev (take (size s - n) s).  
Proof.
rewrite -[s]revK take_rev !revK size_rev -minnE /minn.
by case: ifP => // /ltnW-le_s_n; rewrite !drop_oversize ?size_rev.
Qed.

...( in RotrLemmas )
Lemma rev_rotr s : rev (rotr n0 s) = rot n0 (rev s).
Proof. by rewrite rev_cat -take_rev -drop_rev. Qed.

Lemma rev_rot s : rev (rot n0 s) = rotr n0 (rev s).
Proof. by rewrite (canRL revK (rev_rotr _)) revK. Qed.

File: mathcomp/ssreflect/seq.v [hunk 7]
```diff
@@ -1293,6 +1323,20 @@ Proof. by elim: s n => [|y s' IHs] [|n] /=; auto. Qed.
 Lemma headI T s (x : T) : rcons s x = head x s :: behead (rcons s x).
 Proof. by case: s. Qed.
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: This should so right after nth_uniq, and logically be called uniqPn (negative reflection characterization of uniq).
While using the i < j < size s notation is tempting, it's likely to lead to annoying complications in intro patterns, so it is best merged into a ternary and.
Finally the proof can be made a bit shorter by splitting the equivalence to make use of nth_uniq:
Lemma uniqPn s :
  reflect (exists i j, [/\ i < j, j < size s & nth s i = nth s j]) (~~ uniq s).
Proof.
apply: (iffP idP) => [|[i [j [ltij ltjs]]]]; last first.
  by apply: contra_eqN => Us; rewrite nth_uniq ?ltn_eqF // (ltn_trans ltij).
elim: s => // x s IHs /nandP[/negbNE | /IHs[i [j]]]; last by exists i.+1, j.+1.
exists 0, (index x s).+1; rewrite !ltnS index_mem /= nth_index.
Qed.
Final note: while this is a reasonable low-level lemma, the library prefers to rely on injectivePn as in practice s is a function range, and this avoids the pesky range conditions associated with nth. Of course, any sequence s is the codomain of (tnth (in_tuple s)), via map_tnth_enum.

File: mathcomp/ssreflect/seq.v [hunk 8]
```diff
@@ -1405,6 +1473,9 @@ Proof. by move=> /= s2; rewrite perm_catC cat_take_drop. Qed.
 Lemma perm_rotr n s : perm_eql (rotr n s) s.
 Proof. exact: perm_rot. Qed.
 
+Lemma perm_eq_rev s : perm_eq s (rev s).
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: This should be called perm_rev (the convention is to drop the eq for seq operators).

File: mathcomp/ssreflect/seq.v [hunk 9]
```diff
@@ -1417,6 +1488,15 @@ Proof. by move/perm_eqP=> eq12 x; rewrite -!has_pred1 !has_count eq12. Qed.
 Lemma perm_eq_size s1 s2 : perm_eq s1 s2 -> size s1 = size s2.
 Proof. by move/perm_eqP=> eq12; rewrite -!count_predT eq12. Qed.
 
+Lemma filter_perm_eq u v P :
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: likewise, this should be called perm_filter (and appear just above perm_filterC). Also, u & v should be s1 & s2 to fit with the section conventions.

File: mathcomp/ssreflect/seq.v [hunk 10]
```diff
@@ -1417,6 +1488,15 @@ Proof. by move/perm_eqP=> eq12 x; rewrite -!has_pred1 !has_count eq12. Qed.
...
+  perm_eq u v -> perm_eq (filter P u) (filter P v).
+Proof.
+by move/perm_eqP=> uv_count; apply/perm_eqP=> Q; rewrite !count_filter.
+Qed.
+
+Lemma all_perm_eq (u v : seq T) P : perm_eq u v -> all P u = all P v.
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: This should be called perm_eq_all (perm_eq precedes the set property), u & v should be s1 & s2, without the redundant type annotation. This should more logically appear just after perm_eq_mem.

File: mathcomp/ssreflect/seq.v [hunk 11]
```diff
@@ -2265,6 +2345,16 @@ Proof. by rewrite mulnC; elim: n => //= n ->. Qed.
 Lemma sumn_cat s1 s2 : sumn (s1 ++ s2) = sumn s1 + sumn s2.
 Proof. by elim: s1 => //= x s1 ->; rewrite addnA. Qed.
 
+Lemma sumn_count (T : eqType) (s : seq T) (P : T -> bool) :
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: T does not need the eqType annotation; in fact only P : pred T is required. It is preferable to express a coercion using a cast, rather than quoting it explicitly:
Lemma sumn_count T (P : pred T) s :  
  sumn [seq (P i : nat) | i <- s] = count P s.

File: mathcomp/ssreflect/seq.v [hunk 12]
```diff
@@ -2265,6 +2345,16 @@ Proof. by rewrite mulnC; elim: n => //= n ->. Qed.
...
+  sumn [seq nat_of_bool (P i) | i <- s] = count P s.
+Proof. by elim: s => //= s0 s /= ->. Qed.
+
+Lemma sumn_rev s : sumn (rev s) = sumn s.
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: It is useful (see below in reshape_rcons) to spin off a sumn_rcons intermediate lemma:
Lemma sumn_rcons s n : sumn (rcons s n) = sumn s + n.
Proof. by rewrite -cats1 sumn_cat /= addn0. Qed.

Lemma sumn_rev s : sumn (rev s) = sumn s.
Proof. by elim: s => //= x s <-; rewrite rev_cons sumn_rcons addnC. Qed.

File: mathcomp/ssreflect/seq.v [hunk 13]
```diff
@@ -2477,6 +2567,173 @@ rewrite /N /= count_cat -/(N x _) Nx0 ?mem_rem_uniq ?undup_uniq ?inE ?eqxx //.
 by rewrite addn0 -{2}(size_nseq (_ s) x) -all_count all_pred1_nseq.
 Qed.
 
+Section FlattenReshape.
+
+Variables S T : eqType.
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: The eqType structure is never used in this section, which would be better merged into the Flatten section (except for map_flatten and map_reshape, which must go after since they apply flatten/reshape to different types).

File: mathcomp/ssreflect/seq.v [hunk 14]
```diff
@@ -2477,6 +2567,173 @@ rewrite /N /= count_cat -/(N x _) Nx0 ?mem_rem_uniq ?undup_uniq ?inE ?eqxx //.
...
+Implicit Types (s : seq T) (ss : seq (seq T)).
+
+Lemma flatten_rcons s t : flatten (rcons t s) = flatten t ++ s.
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: Section naming convention: t should be ss. There is a straightforward equational proof:
Lemma flatten_rcons ss s : flatten (rcons ss s) = flatten ss ++ s. 
Proof. by rewrite -cats1 flatten_cat /= cats0. Qed.

File: mathcomp/ssreflect/seq.v [hunk 15]
```diff
@@ -2477,6 +2567,173 @@ rewrite /N /= count_cat -/(N x _) Nx0 ?mem_rem_uniq ?undup_uniq ?inE ?eqxx //.
...
+Qed.
+
+Lemma flatten_seq1 s : flatten [seq [:: x] | x <- s] = s.
+Proof. by elim: s => //= s0 s ->. Qed.
+
+Lemma count_flatten ss P :
+  count P (flatten ss) = sumn [seq count P x | x <- ss].
+Proof. by elim: ss => //= s ss IHss; rewrite count_cat IHss. Qed.
+
+Lemma map_flatten (f : T -> S) ss :
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: The scripting convention is to start all one-line scripts with by (unless they're of the form exact ....), and not to have a redundant trailing exact: at the end of a b, e.g.,
Proof. elim: ss => // s ss /= <-; apply: map_cat. Qed.

File: mathcomp/ssreflect/seq.v [hunk 16]
```diff
@@ -2477,6 +2567,173 @@ rewrite /N /= count_cat -/(N x _) Nx0 ?mem_rem_uniq ?undup_uniq ?inE ?eqxx //.
...
+by rewrite rev_cons flatten_rcons -IHss rev_cat.
+Qed.
+
+Lemma nth_shape ss i : nth 0 (shape ss) i = size (nth [::] ss i).
+Proof.
+rewrite /shape; case: (ltnP i (size ss)) => Hi; first exact: nth_map.
+by rewrite !nth_default // size_map.
+Qed.
+
+Lemma shape_rev ss : shape (rev ss) = rev (shape ss).
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: exact: map_rev proves this.

File: mathcomp/ssreflect/seq.v [hunk 17]
```diff
@@ -2477,6 +2567,173 @@ rewrite /N /= count_cat -/(N x _) Nx0 ?mem_rem_uniq ?undup_uniq ?inE ?eqxx //.
...
+Proof. by rewrite /shape; elim: ss => //= s ss IHss; rewrite map_rev. Qed.
+
+Lemma eq_from_flatten_shape (u v : seq (seq T)) :
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: I don't think the equivalence serves much purpose here: better state the forward direction with separate assumptions.
Lemma eq_from_flatten_shape ss1 ss2 :  
  flatten ss1 = flatten ss2 -> shape ss1 = shape ss2 -> ss1 = ss2.
Proof. by move=> Eflat Esh; rewrite -[LHS]flattenK Eflat Esh flattenK. Qed.

File: mathcomp/ssreflect/seq.v [hunk 18]
```diff
@@ -2477,6 +2567,173 @@ rewrite /N /= count_cat -/(N x _) Nx0 ?mem_rem_uniq ?undup_uniq ?inE ?eqxx //.
...
+  (u = v) <-> ((flatten u = flatten v) /\ (shape u = shape v)).
+Proof.
+split=> [-> // | [Hflat Hshape]].
+by rewrite -(flattenK u) -(flattenK v) Hflat Hshape.
+Qed.
+
+Lemma rev_reshape (s : seq nat) (l : seq T) :
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: From its name, this lemma should have a rev (reshape _ _) LHS - you can use canRL revK to get back your statement.
I prefer to put in an explicit forward "transitive" step to avoid excessive imperative folding/unfolding.
Lemma rev_reshape sh s :  
 size s = sumn sh -> rev (reshape sh s) = map rev (reshape (rev sh) (rev s)). 
Proof.
move=> sz_s; apply/(canLR revK)/eq_from_flatten_shape.
  rewrite reshapeKr ?sz_s // -rev_flatten reshapeKr ?revK //. 
  by rewrite size_rev sumn_rev sz_s.
transitivity (rev (shape (reshape (rev sh) (rev s)))).
  by rewrite !reshapeKl ?revK ?size_rev ?sz_s ?sumn_rev.
rewrite shape_rev; congr (rev _); rewrite -[RHS]map_comp.
by apply: eq_map => t /=; rewrite size_rev.
Qed.

File: mathcomp/ssreflect/seq.v [hunk 19]
```diff
@@ -2477,6 +2567,173 @@ rewrite /N /= count_cat -/(N x _) Nx0 ?mem_rem_uniq ?undup_uniq ?inE ?eqxx //.
...
+  rewrite -rev_flatten reshapeKr; first by rewrite revK.
+  by rewrite size_rev H sumn_rev.
+- rewrite shape_rev /shape -map_comp.
+  rewrite (eq_map (f2 := size)); last by move=> v; rewrite /= size_rev.
+  rewrite -/(shape _) reshapeKl; last by rewrite size_rev sumn_rev H.
+  rewrite -/(shape _) reshapeKl; last by rewrite H.
+  by rewrite revK.
+Qed.
+
+Lemma nth_reshape (s : seq nat) (l : seq T) n :
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: Should come before flattenK, and use parameter named sh s I instead of s l n.

File: mathcomp/ssreflect/seq.v [hunk 20]
```diff
@@ -2477,6 +2567,173 @@ rewrite /N /= count_cat -/(N x _) Nx0 ?mem_rem_uniq ?undup_uniq ?inE ?eqxx //.
...
+Proof.
+elim: n s l => [| n IHn] [| s0 s] l; rewrite ?take0 ?drop0 //=.
+rewrite addnC -drop_drop; exact: IHn.
+Qed.
+
+Lemma map_reshape (T1 T2 : Type) (f : T1 -> T2) sh (s : seq T1) :
+  map (map f) (reshape sh s) = reshape sh (map f s).
+Proof. elim: sh s => //= sh0 sh IHsh s; by rewrite map_take IHsh map_drop. Qed.
+
+Lemma size_reshape sh s : size (reshape sh s) = size sh.
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: Should go before nth_reshape.

File: mathcomp/ssreflect/seq.v [hunk 21]
```diff
@@ -2477,6 +2567,173 @@ rewrite /N /= count_cat -/(N x _) Nx0 ?mem_rem_uniq ?undup_uniq ?inE ?eqxx //.
...
+Proof. elim: sh s => //= s0 sh IHsh s; by rewrite IHsh. Qed.
+
+Lemma reshape_rcons s sh sn :
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: I suggest using n for the trailing block size, abbreviating m := sumn sh to fit the conclusion on a single line, and using rev_reshape in the proof.
Lemma reshape_rcons s sh n (m := sumn sh) :  
    m + n = size s ->  
  reshape (rcons sh n) s = rcons (reshape sh (take m s)) (drop m s).
Proof.
move=> Dmn; apply/(can_inj revK); rewrite rev_reshape ?rev_rcons ?sumn_rcons //.
rewrite /= take_rev drop_rev -Dmn addnK revK -rev_reshape //.
by rewrite size_takel // -Dmn leq_addr.
Qed.

File: mathcomp/ssreflect/seq.v [hunk 22]
```diff
@@ -2477,6 +2567,173 @@ rewrite /N /= count_cat -/(N x _) Nx0 ?mem_rem_uniq ?undup_uniq ?inE ?eqxx //.
...
+  by rewrite Hs0 ltnNge leq_addr /= addKn ltnn subnn drop0.
+rewrite take_cat size_take Hs0 ltnn subnn take0 cats0.
+rewrite drop_cat size_take Hs0 ltnn subnn drop0.
+rewrite (_ : drop (s0 + sumn sh) s = drop (sumn sh) (drop s0 s)); first last.
+  rewrite -[s](cat_take_drop s0) !drop_cat size_take.
+  by rewrite Hs0 ltnNge leq_addr /= addKn ltnn subnn drop0.
+by rewrite -IHsh; last by rewrite size_drop -Hsize -addnA addKn.
+Qed.
+
+(** ** converting indices in a [seq [seq T]] and its flatten version *)
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: These functions should go at the beginning of the Flatten section, where the other related functions are also defined.
They _must_ be documented in the file header.
I am wary of pair-returning functions, which can be cumbersome to handle, with almost systematic destructuring or projecting. In fact I'd definitely advise against destructuring a pair in the conclusion of a lemma, and recommend using projections instead (see below).
An alternative here would be to expose two different functions to return the index and offset parts of your flatten_index. Both can be defined by one-liners, but somewhat at the expense of the following theory that becomes longer due to separate lemmas and more explicit unfolding of constants with long names. Perhaps you can try out both variants and see which one works best in your use cases.

Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: (Revised) theory for a pair-returning reshape_index:
```
Definition flatten_index sh r c := sumn (take r sh) + c.  
Fixpoint reshape_index sh i :=
  if sh isn't s0 :: s then (0, i) else 
  if i < s0 then (0, i) else 
  let (r, c) := reshape_index s (i - s0) in (r.+1, c).

Lemma reshape_indexP sh i (rc := reshape_index sh i) :  
  i < sumn sh -> rc.1 < size sh /\ rc.2 < nth 0 sh rc.1.  
Proof.
elim: sh i @rc => //= n sh IHsh i; have [// | le_n_i] := ltnP i n.
by rewrite -leq_subLR subSn // => /IHsh; case: reshape_index.
Qed.  
 
Lemma reshape_indexK sh i (rc := reshape_index sh i):  
  flatten_index sh rc.1 rc.2 = i.
Proof.  
  elim: sh i @rc => //= n sh IHsh i; have [// | le_n_i] := ltnP.
case: reshape_index {IHsh}(IHsh (i - n)) => r c /= Drc.
by rewrite -(subnKC le_n_i) -Drc addnA.
Qed.  

Lemma flatten_indexK sh r c :  
   c < nth 0 sh r -> reshape_index sh (flatten_index sh r c) = (r, c).  
Proof.
elim: sh r => [|n sh IHsh] [| r] //= => [-> // | /IHsh-Drc].
by rewrite /flatten_index /= -addnA addKn Drc ifN // -leqNgt leq_addr.
Qed.

Lemma nth_flatten x0 ss i (rc := reshape_index (shape ss) i) :  
  nth x0 (flatten ss) i = nth x0 (nth [::] ss rc.1) rc.2.  
Proof.
elim: ss i @rc => //= s ss IHss i; rewrite nth_cat.
by have [// | le_s_i] := ltnP; rewrite /= IHss; case: reshape_index.
Qed.  

```

File: mathcomp/ssreflect/seq.v [hunk 23]
```diff
@@ -1322,6 +1366,30 @@ elim: v i => [|n v IHv] [|i] //=; first by rewrite size_ncons /= addn1.
 by rewrite IHv; apply: fun_if.
 Qed.
```
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: Some shorter proofs, using views, contrapositives, and the associativity of `maxn`
```
Lemma incr_nth_inj v : injective (incr_nth v).  
Proof.
move=> i j /(congr1 (nth 0 ^~ i)); apply: contra_eq => neq_ij.
by rewrite !nth_incr_nth eqn_add2r eqxx /nat_of_bool ifN_eqC.
Qed.

Lemma incr_nthC v i j : incr_nth (incr_nth v i) j = incr_nth (incr_nth v j) i.
Proof.
apply: (@eq_from_nth _ 0) => [|k _]; last by rewrite !nth_incr_nth addnCA.
by do !rewrite size_incr_nth leqNgt if_neg -/(maxn _ _); apply: maxnAC.
Qed.

```

File: mathcomp/ssreflect/seq.v (hunk 22 above)
Comment (ggonthier) [inline mathcomp/ssreflect/seq.v]: Theory with separate `reshape_index` and `reshape_offset` functions:
```
Definition flatten_index sh r c := sumn (take r sh) + c.  
Definition reshape_index sh i := find (pred1 0) (scanl subn i.+1 sh).
Definition reshape_offset sh i := i - sumn (take (reshape_index sh i) sh).

Lemma flatten_indexP sh r c :
  c < nth 0 sh r -> flatten_index sh r c < sumn sh.  
Proof.  
move=> lt_c_sh; rewrite -[sh in sumn sh](cat_take_drop r) sumn_cat ltn_add2l.
suffices lt_r_sh: r < size sh by rewrite (drop_nth 0 lt_r_sh) ltn_addr.
by case: ltnP => // le_sh_r; rewrite nth_default in lt_c_sh.
Qed.

Lemma reshape_indexP sh i : i < sumn sh -> reshape_index sh i < size sh.
Proof.  
rewrite /reshape_index; elim: sh => //= n sh IHsh in i *; rewrite subn_eq0.
by have [// | le_n_i] := ltnP i n; rewrite -leq_subLR subSn // => /IHsh.
Qed.

Lemma reshape_offsetP sh i :
  i < sumn sh -> reshape_offset sh i < nth 0 sh (reshape_index sh i).
Proof.  
rewrite /reshape_offset /reshape_index; elim: sh => //= n sh IHsh in i *.
rewrite subn_eq0; have [| le_n_i] := ltnP i n; first by rewrite subn0.
by rewrite -leq_subLR /= subnDA subSn // => /IHsh.
Qed.

Lemma reshape_indexK sh i :  
  flatten_index sh (reshape_index sh i) (reshape_offset sh i) = i.
Proof.
rewrite /reshape_offset /reshape_index /flatten_index -subSKn.
elim: sh => //= n sh IHsh in i *; rewrite subn_eq0; have [//|le_n_i] := ltnP.
by rewrite /= subnDA subSn // -addnA IHsh subnKC.
Qed.
  
Lemma flatten_indexKl sh r c :  
  c < nth 0 sh r -> reshape_index sh (flatten_index sh r c) = r.  
Proof.  
rewrite /reshape_index /flatten_index.
elim: sh r => [|n sh IHsh] [|r] //= lt_c_sh; first by rewrite ifT.
by rewrite -addnA -addnS addKn IHsh.
Qed.

Lemma flatten_indexKr sh r c :  
  c < nth 0 sh r -> reshape_offset sh (flatten_index sh r c) = c.  
Proof.  
rewrite /reshape_offset /reshape_index /flatten_index.
elim: sh r => [|n sh IHsh] [|r] //= lt_c_sh; first by rewrite ifT ?subn0.
by rewrite -addnA -addnS addKn /= subnDl IHsh.
Qed.

Lemma nth_flatten x0 ss i (r := reshape_index (shape ss) i) :  
  nth x0 (flatten ss) i = nth x0 (nth [::] ss r) (reshape_offset (shape ss) i).
Proof.
rewrite /reshape_offset -subSKn {}/r /reshape_index.
elim: ss => //= s ss IHss in i *; rewrite subn_eq0 nth_cat.
by have [//|le_s_i] := ltnP; rewrite subnDA subSn /=.
Qed.  

```

**Comment by hivert** [comment]
Dear Georges,

Thanks for the careful rereading of my pull request ! I'll soon propose a new patch taking care of all your remarks.

Florent

File: mathcomp/ssreflect/seq.v (hunk 22 above)
Comment (hivert) [inline mathcomp/ssreflect/seq.v]: First of all, I'm sorry that I took me so long to answer your suggestions. I just gave a try to both theories through my development. I've four quite different use cases so that they probably are altogether representative. It seems that 
- Version 1 gives more convoluted proofs where one needs to states facts before destructuring the pair
- Version 2 gives simpler proof but with less readable statements. Actually, in two cases I had to write some equivalent of destructuring as 
```
set r := reshape_index s i; set c := reshape_offset s i` 
```
just to keep thing readable. At the end of the day, I think the second version is better. 
If you want to have a look, the diff between my two attempts is at  https://github.com/hivert/Coq-Combi/commit/9538004053d58ab1f7ed06c41bbef43af0fe86de
Unless you have some more comment I'll submit version 2 with separate functions.

Finally I needed the following extra lemma so I'm adding it to the pull request:
```
Lemma reshape_index_leq sh i1 i2 :
  i1 <= i2 -> i2 < sumn sh ->
  (reshape_index sh i1) < (reshape_index sh i2) \/
  ((reshape_index sh i1) = (reshape_index sh i2) /\
   (reshape_offset sh i1) <= (reshape_offset sh i2)).
```

**Comment by hivert** [comment]
First of all, I'm sorry that I took me so long to answer your suggestions. I should have addressed all of them including the remark on the reshape/flatten index theory  up there (the one with 4 comments). It a pity there is no numbering on the comment in Github, becaus there is no way to point so some comment.

File: mathcomp/ssreflect/seq.v (hunk 22 above)
Comment (hivert) [inline mathcomp/ssreflect/seq.v]: Note: I can't add them to the Prenex Implicits line at the end of the section. because they are no implicit arguments.

File: mathcomp/ssreflect/seq.v [hunk 24]
```diff
@@ -2434,10 +2514,150 @@ rewrite size_takel; last exact: leq_trans (leq_addr _ _) sz_s.
...
+
+Lemma nth_flatten x0 ss i (r := reshape_index (shape ss) i) :
+  nth x0 (flatten ss) i = nth x0 (nth [::] ss r) (reshape_offset (shape ss) i).
+Proof.
+rewrite /reshape_offset -subSKn {}/r /reshape_index.
+elim: ss => //= s ss IHss in i *; rewrite subn_eq0 nth_cat.
+by have [//|le_s_i] := ltnP; rewrite subnDA subSn /=.
+Qed.
+
+Lemma reshape_index_leq sh i1 i2 :
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: Hi! This lemma looks weird to me, could you tell me in which context it is used?

File: mathcomp/ssreflect/seq.v [hunk 25]
```diff
@@ -2434,10 +2514,150 @@ rewrite size_takel; last exact: leq_trans (leq_addr _ _) sz_s.
...
+  i1 <= i2 -> i2 < sumn sh ->
+  (reshape_index sh i1) < (reshape_index sh i2) \/
+  ((reshape_index sh i1) = (reshape_index sh i2) /\
+   (reshape_offset sh i1) <= (reshape_offset sh i2)).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/seq.v]: Hi! The statement of this lemma `reshape_index` looks weird to me (i.e. using `\/` and `/\`), could you tell me how it is used?

Comment (hivert) [reply mathcomp/ssreflect/seq.v]: I'm just writing that under the assumption, the pairs (index1, offset1) is lexicographically smaller than (index2, offset2). The form of the statement looked natural to me. How would you write that ? 

Now, to answer your question: Actually, I've only used it once, that is in the file https://github.com/hivert/Coq-Combi/blob/master/theories/MPoly/homogsym.v
in the middle of the proof of lemme monEP.  There, I actually only need that 

    `reshape_index m i <= reshape_index m j` 

I proove it performing a case analysis on the disjunction.

Comment (LaurenceRideau) [reply mathcomp/ssreflect/seq.v]: Hi Florent, could you remove this last theorem ( reshape_index_leq ) from your request, so that we can merge it,. Then, please  do a new pull request for that specific theorem.

Comment (hivert) [reply mathcomp/ssreflect/seq.v]: Done and merged on my repo. However I'm not sure if my changes are resubmitted. To you see them ?

**Comment by hivert** [comment]
Why github is still complaining about the conflict which is resolved in my branch ?

File: mathcomp/ssreflect/seq.v (hunk 25 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v]: Dear Florent, I think the problem is that you merged with master instead of rebasing your branch on top of master and adding a commit, but I'm no github expert. Maybe @maximedenes can explain this behavior to us?

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v]: Github might be unable to handle this practice.

The best practice would have been to open a new branch on your side to prepare the pull request, and then change the content of this branch each time you update your pull request, or each time you rebase your branch on top of master.

Since you did not do it, you will have to force your branch master : I think you should remove your merge commit, then add a new commit on your master branch and rebase it on top of our master. Then github will update your pull request accordingly and state it has no conflicts. Does what I say make sense?

**Comment by hivert** [comment]
On Mon, Dec 04, 2017 at 04:36:17AM -0800, Cyril Cohen wrote:
> The best practice would have been to open a new branch on your side to prepare the pull request, and then change the content of this branch each time you update your pull request, or each time you rebase your branch on top of master.
> 
> Since you did not do it, you will have to force your branch master : I think you should remove your merge commit, then add a new commit on your master branch and rebase it on top of our master. Then github will update your pull request accordingly and state it has no conflicts. Does what I say make sense?

It's very strange, since I did only use github web interface. I haven't been
doing any Coq for a few months so that I need to update it together with
Mathcomp. Since It takes some times I tried to do everything online. I what
you said is true, I don't understand why they gives all these cliquodrome
stuff online. Anyway, Sorry for the mess.

A++

Florent

**Comment by CohenCyril** [comment]
Hi Florent, I agree it's a bit annoying that github allows you to click in ways that makes it enter an inconsistent state... Do you want me do handle this for you? If you are ok with it, I may rework your existing pull request to make it consistent with github and then merge.

**Comment by amahboubi** [comment]
Indeed, it's a pain. BTW I think it would be good, to add something about the expected shape of history in ready-to-merge PRs in the [checklist](https://github.com/math-comp/math-comp/wiki/checklist-pr). Any wording suggestion @maximedenes ?

**Comment by CohenCyril** [comment]
@amahboubi except for the piece of code I asked @hivert to remove from the pull request (and put in another), I guess it should be ok with regard to the extensive review @ggonthier did a while ago. However, now, with the inconsitent state in github, it is very difficult to make a last review before merging, because github won't show me the correct diff!

**Comment by hivert** [comment]
Dear Cyril,

On Mon, Dec 11, 2017 at 10:20:38AM +0000, Cyril Cohen wrote:
> Hi Florent, I agree it's a bit annoying that github allows you to click in
> ways that makes it enter an inconsistent state... Do you want me do handle
> this for you? If you are ok with it, I may rework your existing pull request
> to make it consistent with github and then merge.

Please do ! My fork is public <https://github.com/hivert/math-comp> so don't
hesitate to refork it and finish the merge. Thanks !

Florent

**Comment by hivert** [comment]
On Mon, Dec 11, 2017 at 02:40:30AM -0800, Cyril Cohen wrote:
> However, now, with the inconsitent state in github, it is very difficult to
> make a last review before merging, because github won't show me the correct
> diff!

Sorry for the mess ! I've been doing code review for years (mostly in the
Sagemath project), but it's the first time I'm using github interface for
it. I didn't expect thing to go west that way in a few click. It scares me a
little about github interface.

Best,

Florent

**Comment by hivert** [comment]
@CohenCyril: I actually had a repo ready to be forked, So I made a new branch and resubmitted a new PR

**Comment by CohenCyril** [comment]
merged as #166
